US08895599B2
Preparation of 2-(4-benzyloxy-3-methoxyphenyl)benzothiazole
In methylene chloride (10 ml) was suspended 2.0 g (7.7 mmol) of 4-benzyloxy-3-methoxy benzoic acid. To this suspension was added 0.05 g of DMF and 0.68 ml of thionyl chloride, followed by stirring at 50° C. for 2 hours. This reaction solution was introduced dropwise at 0° C. into a solution wherein 1.2 g (9.3 mmol) of 2-aminothiophenol had been dissolved in 10 ml of pyridine at room temperature. The mixture was further stirred overnight at room temperature, diluted with water, and subjected to ethyl acetate extraction (50 ml×2 times). The extracts were dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue thus obtained was dissolved in 30 ml of toluene. This toluene solution was heated to reflux overnight while water was distilled off. Toluene was removed from this solution by distillation under reduced pressure, and the residue was purified using a silica gel column (eluant:ethyl acetate/hexane=1/5). The solvent was distilled off under reduced pressure. Using the crystals thus obtained, the desired compound was recrystallized in an amount of 0.18 g from methylene chloride-hexane.

reactant | 4-benzyloxy-3-methoxy benzoic acid | 7.7 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)OC | C15H14O4
reactant | DMF | 0.05 g | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.68 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminothiophenol | 9.3 mmol, 1.2 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-benzyloxy-3-methoxyphenyl)benzothiazole | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)OC | C21H17NO2S
